US07897631B2
4-Prop-2-ynyl-1H-imidazol-2-ylamine hydrochloride (0.095 g, 0.603 mmol) was reacted with benzyl azide (0.096 g, 0.723 mmol) following the general procedure for click reactions outlined above to produce 4-(1-Benzyl-1H-[1,2,3]triazol-4-ylmethyl)-1H-imidazol 2-ylamine hydrochloride (0.151 g, 86%) of a pale yellow solid. 1H NMR (300 MHz, D2O) δ 7.79 (s, 1H), δ 7.42-7.35 (m, 5H), δ 6.43 (s, 1H), δ 5.58 (s, 2H), δ 3.86 (s, 2H) ppm; 13C δ 145.4, 136.6, 136.4, 128.8, 128.7, 126.9, 126.8, 126.3, 124.1, 121.8, 109.6, 53.3, 24.1 ppm; HRMS (ESI) calcd for C13H6N6O (M+) 254.1352. found 254.1352.

reactant | 4-Prop-2-ynyl-1H-imidazol-2-ylamine hydrochloride | 0.603 mmol, 0.095 g | Cl.C(C#C)C=1N=C(NC1)N
reactant | benzyl azide | 0.723 mmol, 0.096 g | C(C1=CC=CC=C1)N=[N+]=[N-] | C7H7N3
product | 4-(1-Benzyl-1H-[1,2,3]triazol-4-ylmethyl)-1H-imidazol 2-ylamine hydrochloride | 0.151 g, 86% | Cl.C(C1=CC=CC=C1)N1N=NC(=C1)CC=1N=C(NC1)N | InChI=1S/C13H14N6.ClH/c14-13-15-7-11(16-13)6-12-9-19(18-17-12)8-10-4-2-1-3-5-10;/h1-5,7,9H,6,8H2,(H3,14,15,16);1H
